US04540699
To a stirred suspension of 57% sodium hydride in oil (6.55 g) in dimethoxyethane (40 ml) at -5° C., was added dropwise over 40 minutes a mixture of ethyl β-(N-methyl-2-oxo-4-pyridyl)propionate (26.05 g) and ethyl formate (13.83 g) whilst maintaining the reaction temperature at -5° C. The temperature of the reaction mixture was slowly allowed to rise to ambient at which temperature it was stood for three days. The reaction mixture was poured on to ice, extracted with diethyl ether (3×100 ml) and the combined organic layers were washed with water (2×20 ml). The aqueous layer and washings were acidified to pH 4 with 2 N sulphuric acid whereupon a solid came out of solution. The mixture was kept at 0° C. for two hours, and the solid filtered off and dried in vacuo to afford ethyl α-formyl-β-(N-methyl-2-oxo-4-pyridyl)propionate (15.27 g) as a solid; recrystallisation from isopropanol afforded a solid, m.p. 164-5-165.5 ° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl β-(N-methyl-2-oxo-4-pyridyl)propionate | 26.05 g | CN1C(C=C(C=C1)CCC(=O)OCC)=O | C11H15NO3
reactant | ethyl formate | 13.83 g | C(=O)OCC | C3H6O2
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
product | ethyl α-formyl-β-(N-methyl-2-oxo-4-pyridyl)propionate | 15.27 g | C(=O)C(C(=O)OCC)CC1=CC(N(C=C1)C)=O | C12H15NO4
